US04271089
To a 2000 ml. flask fitted with a stirrer, reflux condensor and an additional funnel and immersed in an ice water bath was added 248 g. of ethylene glycol and 20 g. of 40% aqueous NaOH. The stirrer was started and the 424 g. of acrylonitrile was added from the funnel over a period of about 15 minutes. The temperature remained in the range of 25°-35° C. during the addition of the acrylonitrile. The stirring was continued for one additional hour after which 170 g. of the reaction mixture was withdrawn from the flask and neutralized by contacting with 70 g. of a sulfonic acid resin. The withdrawn mixture contained more than 95 wt. % of 3,3'-ethylenedioxy-bis(propionitrile), and essentially no acrylonitrile. This run was performed with gradual addition of acrylonitrile to produce the 3,3'-ethylenedioxy-bis(propionitrile) for use in the subsequent run with rapid addition of acrylonitrile.

reactant | NaOH | [OH-].[Na+]
reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | ethylene glycol | C(CO)O | C2H6O2
product | 3,3'-ethylenedioxy-bis(propionitrile) | C(OCCC#N)COCCC#N | C8H12N2O2
